### ISSUE TITLE
Paper/LatinSquare: two `answer( )` slots sit outside a `variable {n}` binder — `answer(False)` is unreachable, and the AnswerLinter cannot see it

### ISSUE THREAD

**Issue by Kuberwastaken** [google-deepmind/formal-conjectures#5009]
## Summary

`Paper/LatinSquare.lean` opens with `variable {n : ℕ}` at line 33. Two `research open`
declarations use `n` in their statements but not in their own binder lists, so each elaborates
as `∀ {n : ℕ}, answer(sorry) ↔ P n` with a **single** answer slot outside the `∀ n`. The
consequence is that `answer(False)` is unreachable in one case and, in the other, the
declaration is provable only if `P n` has the same truth value for every `n` — neither of which
is the intended reading of the `answer(sorry) ↔ …` idiom.

The repository's `AnswerLinter` exists to catch exactly this ("Move the quantifiers outward…"),
but its `contains_early_args` helper reads `decl[2][0]`, the binder list in the theorem's own
`declSig`, and `variable`-introduced binders are not there. I include a machine-checked
demonstration of the blind spot below, since it is probably the more useful half of this report.

https://github.com/google-deepmind/formal-conjectures/blob/638da20efd8eeeed2993fc2550fc596dc90c1ce8/FormalConjectures/Paper/LatinSquare.lean#L33

```lean
variable {n : ℕ}
```

https://github.com/google-deepmind/formal-conjectures/blob/638da20efd8eeeed2993fc2550fc596dc90c1ce8/FormalConjectures/Paper/LatinSquare.lean#L53-L60

```lean
/-- Conjecture 3.2 in [Wa2011]: Each Latin square of odd order has at least one transversal. -/
@[category research open, AMS 5]
theorem oddOrderLatinSquareTransversal : answer(sorry) ↔
    Odd n → ∀ (L : LatinSquare n), ∃ σ, IsTransversal L σ := by
  sorry
```

https://github.com/google-deepmind/formal-conjectures/blob/638da20efd8eeeed2993fc2550fc596dc90c1ce8/FormalConjectures/Paper/LatinSquare.lean#L84-L91

```lean
/-- Conjecture 5.1 in [Wa2011]: Every latin square has a near-transversal -/
@[category research open, AMS 5]
theorem latinSquareNearTransversal : answer(sorry) ↔
    ∀ (L : LatinSquare n), ∃ ρ σ, IsNearTransversal L ρ σ := by
  sorry
```

## Consequences

**`oddOrderLatinSquareTransversal`: `answer(False)` is unreachable.** The right-hand side is
`Odd n → …`, which is *vacuously true* whenever `n` is even. So the answer is forced to `True`
whatever the status of Conjecture 3.2, and the declaration then asserts the conjecture outright
rather than asking it:

```lean
theorem answer_forced_true {Q : ℕ → Prop} (A : Prop) (h : ∀ n : ℕ, A ↔ (Odd n → Q n)) : A :=
  (h 2).mpr (fun h2 => absurd h2 (by decide))
```

The `answer(sorry) ↔ …` idiom exists so that a solver can record either verdict; here one
verdict cannot be recorded.

**`latinSquareNearTransversal`: provable only if the conjecture is `n`-uniform.** Same scoping,
without the vacuity: `∀ {n}, A ↔ P n` says every `P n` has the truth value `A`. If the
near-transversal conjecture held for some orders and failed for others, **no** answer would make
the declaration provable.

The sibling `latinSquareOrder11Transversal` is immune — it fixes `LatinSquare 11`, so `n` never
enters — and is not part of this report.

## The linter blind spot

Machine-checked against Mathlib v4.27.0 (`lean -DautoImplicit=false
-DrelaxedAutoImplicit=false`, exit 0):

```lean
set_option linter.style.answer_attribute true

/-- Explicit binder in the `declSig`: the linter fires. -/
@[category research open, AMS 5]
theorem explicitBinder (m : ℕ) : answer(sorry) ↔ (0 < m) := by sorry

section
variable {n : ℕ}

/-- Same statement, binder introduced by `variable`: the linter is silent. -/
@[category research open, AMS 5]
theorem sectionBinder : answer(sorry) ↔ (0 < n) := by sorry

end
```

Output — one warning, on `explicitBinder` only:

```
P7.lean:6:0: warning: Move the quantifiers outward:
instead of
`theorem foo (bar : ℕ) (baz : ℕ) : answer(sorry) ↔ ...`
likely the intention was
`theorem foo : answer(sorry) ↔ ∀ᵉ (bar : ℕ) (baz : ℕ), ...`
```

Nothing is reported for `sectionBinder`, which is the shape both `LatinSquare` declarations
have. Extending `contains_early_args` to consult the elaborated declaration's telescope (or the
section variables in scope) rather than the surface `declSig` binders would close this; that
would fall under #1407.

## Suggested fix

Move the quantifier inside, as the linter's own message says:

```lean
theorem oddOrderLatinSquareTransversal : answer(sorry) ↔
    ∀ n : ℕ, Odd n → ∀ (L : LatinSquare n), ∃ σ, IsTransversal L σ := by
  sorry

theorem latinSquareNearTransversal : answer(sorry) ↔
    ∀ n : ℕ, ∀ (L : LatinSquare n), ∃ ρ σ, IsNearTransversal L ρ σ := by
  sorry
```

I have not opened a PR: #4965 is open against this file and would conflict, and whoever lands
first can reasonably carry this change.

## What is *not* claimed

Conjectures 3.2 and 5.1 of [Wa2011] are untouched; both remain open. `molsExistenceProblem`
(line 212) is closable by `rfl` with the set on its right-hand side, but that is the case
CONTRIBUTING explicitly places out of scope ("one can provide trivial answers that aren't
mathematically interesting…"), so I do not report it.

## Duplicate check

Offline sweep of all 1747 issues and 3237 PRs (with per-PR file lists) on `LatinSquare`,
`molsExistenceProblem`, `MOLS`, `Transversal`, and the path
`FormalConjectures/Paper/LatinSquare.lean`. The open PR **#4965** touches this file but changes
only `oddOrderLeq9LatinSquareTransversal` (`answer(sorry)` → `answer(True)`, a `research solved`
declaration), not either declaration reported here — I re-checked its diff immediately before
filing. Issues #2270/#2271/#2272 are the original formalization requests. Not in #4896, #4923 or
#4927.

## Related

Same defect family as #5005 (five instances in `GreensOpenProblems`) and #5008
(`Paper/VoronovskajaTypeFormula`); this one is distinguished by being invisible to the linter
that was written for it.

## Relationship to the C₅[K₄] campaign

Found while auditing `research open` declarations in the non-Wikipedia collections:

https://github.com/Kuberwastaken/c5-k4/blob/aa598efc894f2ab9628ccd8019b41318f20111ac/results/expansion/live-search-2026-08-15/other-corpora-scan.md

## AI assistance disclosure

Prepared with AI assistance (Claude, Anthropic) for the audit, the Lean witnesses and drafting.
The submitter reviewed the declarations, the probe output, and the suggested repair, and takes
responsibility for the submission.

### Choose either option
- [ ] I plan on working on this issue
- [x] This issue is up for grabs: I would like to see this misformalization fixed by somebody else
